US04572791
A mixture of 61 grams of methyloctylsilane and 186 grams of 1-octene was reacted in the presence of 0.0075 gram of chlorotris(triphenylphosphine)rhodium(I) for 2.5 hours at 85°-89° C. Analysis by GLC showed a total of 15 percent of unsaturated product. After removing unreacted octene by stripping, the residue was hydrogenated as in Example 1. Distillation revealed an 86 percent yield of methyltri(octyl)silane having a boiling point of 188°-189° C. (0.9 mm).

reactant | methyloctylsilane | 61 grams | C[SiH2]CCCCCCCC | C9H22Si
reactant | 1-octene | 186 grams | C=CCCCCCC | C8H16
catalyst | chlorotris(triphenylphosphine)rhodium(I) | 0.0075 gram | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | methyltri(octyl)silane | 86 percent yield | C[Si](CCCCCCCC)(CCCCCCCC)CCCCCCCC | C25H54Si
